US07582273B1
The invention also includes a method for preparing 3,6-di(azido)-1,2,4,5-tetrazine. The method involves reacting 3,6-bis(3,5-dimethylpyrazol-1-yl)-1,2,4,5-tetrazine with NH2NH2.H2O to form 3,6-di(hydrazino)-1,2,4,5-tetrazine (DHT), then reacting the 3,6-di(hydrazino)-1,2,4,5-tetrazine with an aqueous hydrochloric acid solution of NaNO2, thereby forming a crude reaction product comprising 3,6-di(azido)-1,2,4,5-tetrazine and solid impurities, and extracting the 3,6-di(azido)-1,2,4,5-tetrazine away from the impurities in the crude reaction product.

reactant | 3,6-di(azido)-1,2,4,5-tetrazine | N(=[N+]=[N-])C=1N=NC(=NN1)N=[N+]=[N-] | C2N10
reactant | 3,6-bis(3,5-dimethylpyrazol-1-yl)-1,2,4,5-tetrazine | CC1=NN(C(=C1)C)C=1N=NC(=NN1)N1N=C(C=C1C)C | C12H14N8
reactant | NH2NH2.H2O | NN.O
product | 3,6-di(hydrazino)-1,2,4,5-tetrazine | N(N)C=1N=NC(=NN1)NN | C2H6N8
